US05298652
A mixture of 1.4 g (3.3 mmol) of 5-[[6-([1,1'-biphenyl]-4-yloxy) hexyl]oxy]-2-hydroxybenzoic acid methyl ester, 0.6 ml (5 mmol) of benzyl bromide and 2.5 g (16.5 mmol) of potassium carbonate in 50 ml of acetone and 5 ml of DMF was stirred at reflux for 24 hours. After the usual workup, the crude product was recrystallized from ethyl acetate-hexane to give 1.5 g (89% yield, mp 85°-87°) of 5-[[6-([1,1'-biphenyl]-4-yloxy)hexyl]oxy]-2-(phenylmethoxy)benzoic acid methyl ester.

reactant | 5-[[6-([1,1'-biphenyl]-4-yloxy) hexyl]oxy]-2-hydroxybenzoic acid methyl ester | 3.3 mmol, 1.4 g | COC(C1=C(C=CC(=C1)OCCCCCCOC1=CC=C(C=C1)C1=CC=CC=C1)O)=O | C26H28O5
reactant | benzyl bromide | 5 mmol, 0.6 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 16.5 mmol, 2.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 50 ml | CC(=O)C | C3H6O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 5-[[6-([1,1'-biphenyl]-4-yloxy)hexyl]oxy]-2-(phenylmethoxy)benzoic acid methyl ester | 1.5 g, 89% yield | COC(C1=C(C=CC(=C1)OCCCCCCOC1=CC=C(C=C1)C1=CC=CC=C1)OCC1=CC=CC=C1)=O | C33H34O5
